US06713598B2
97.49 g (0.43 mol) of BPA, 100.00 g (0.47 mol) of phenyldichlorophosphate, and 0.89 g (6.66 mmol) of aluminum chloride were taken in a reaction kettle. The kettle was fitted with an overhead stirrer, a water condenser with nitrogen outlet and a nitrogen inlet. The nitrogen outlet was immersed in a beaker containing KOH solution to absorb the evolved HCl. The reaction mixture was stirred-at 90° C. for 2 h and further at 120° C. for 4 h. A sample of the reaction mixture was drawn and 31P NMR was done to show that there was no phenyldichlorophosphate left and the conversion was nearly 75%. To the reaction mixture 26.06 g (0.28 mol) of phenol was added and the temperature was increased to 140° C. and the reaction mixture was stirred at that temperature for 3 h. After confirming from the 31P NMR spectrum that there was no reactive P—Cl bonds, the reaction mixture was cooled down to room temperature and dissolved in minimum amount of methylene chloride. The methylene chloride solution was added slowly into an excess amount of methanol. The methanol solution was decanted and the precipitate was again dissolved in a minimum amount of methylene chloride and poured into excess methanol. After decanting the methanol solution the precipitate was dried in a vacuum oven at 60-80° C. for 6 h to give 135 g (yield, ˜87%) of the desired solid poly(BPA-phosphate).

reactant | BPA | 0.43 mol, 97.49 g | CC(C)(C=1C=CC(=CC1)O)C=2C=CC(=CC2)O | C15H16O2
reactant | phenyldichlorophosphate | 0.47 mol, 100.00 g | C1(=CC=CC=C1)OP(=O)(Cl)Cl | C6H5Cl2O2P
reactant | aluminum chloride | 6.66 mmol, 0.89 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | KOH | [OH-].[K+]
reactant | phenol | 0.28 mol, 26.06 g | C1(=CC=CC=C1)O | C6H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | BPA phosphate | CC(C)(C=1C=CC(=CC1)O)C=2C=CC(=CC2)O.P(=O)([O-])([O-])[O-] | InChI=1S/C15H16O2.H3O4P/c1-15(2,11-3-7-13(16)8-4-11)12-5-9-14(17)10-6-12;1-5(2,3)4/h3-10,16-17H,1-2H3;(H3,1,2,3,4)/p-3
